US04221725
A solution of 3-[2-(4-hydroxyphenyl)ethyl]glutaric acid (600 mg) in acetic anhydride (15 ml) is heated in a bath at 120° C. for 2.0 hours. It is evaporated in vacuo and the residue is crystallized from dichloromethane-hexane to afford 495 mg of 3-[2-[4-(acetyloxy)phenyl]ethyl]glutaric anhydride, melting point 97°-99° C.

reactant | 3-[2-(4-hydroxyphenyl)ethyl]glutaric acid | 600 mg | OC1=CC=C(C=C1)CCC(CC(=O)O)CC(=O)O | C13H16O5
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-[2-[4-(acetyloxy)phenyl]ethyl]glutaric anhydride | 495 mg | C(C)(=O)OC1=CC=C(C=C1)CCC1CC(=O)OC(C1)=O | C15H16O5
